.SUBCKT AN2D2 A1 A2 Z VDD VSS
MM9 net14 A2 VSS VSS nch_mac l=30.0n w=0.14u
MM8 net26 A1 net14 VSS nch_mac l=30.0n w=0.14u
MM5 Z net26 VSS VSS nch_mac l=30.0n w=0.14u 
MM5_2 Z net26 VSS VSS nch_mac l=30.0n w=0.14u 
MM6 net26 A1 VDD VDD pch_mac l=30.0n w=170.0n
MM7 net26 A2 VDD VDD pch_mac l=30.0n w=0.17u
MM4 Z net26 VDD VDD pch_mac l=30.0n w=0.17u 
MM4_2 Z net26 VDD VDD pch_mac l=30.0n w=0.17u 
.ENDS

.SUBCKT AOI211D2 A1 A2 B C ZN VDD VSS
MM10 ZN A1 net033 VSS nch_mac l=30.0n w=0.14u
MM11 net033 A2 VSS VSS nch_mac l=30.0n w=140.0n
MM0 ZN C VSS VSS nch_mac l=30.0n w=0.14u 
MM0_2 ZN C VSS VSS nch_mac l=30.0n w=0.14u 
MM3 ZN B VSS VSS nch_mac l=30.0n w=0.14u 
MM3_2 ZN B VSS VSS nch_mac l=30.0n w=0.14u 
MM8 ZN A1 net24 VSS nch_mac l=30.0n w=0.14u
MM9 net24 A2 VSS VSS nch_mac l=30.0n w=0.14u
MM5 net47 B net047 VDD pch_mac l=30.0n w=0.17u
MM4 net047 C VDD VDD pch_mac l=30.0n w=0.17u
MM1 net39 C VDD VDD pch_mac l=30.0n w=0.17u
MM2 net47 B net39 VDD pch_mac l=30.0n w=0.17u
MM6 ZN A1 net47 VDD pch_mac l=30.0n w=0.17u 
MM6_2 ZN A1 net47 VDD pch_mac l=30.0n w=0.17u 
MM7 ZN A2 net47 VDD pch_mac l=30.0n w=0.17u 
MM7_2 ZN A2 net47 VDD pch_mac l=30.0n w=0.17u 
.ENDS


.SUBCKT AOI211OPTREPBD2 A1 A2 B C ZN VDD VSS
MP11_1 net051 A1 VDD VDD pch_mac l=30n w=170.0n
MP11_2 net051 A1 VDD VDD pch_mac l=30n w=170.0n
MP11_3 net051 A1 VDD VDD pch_mac l=30n w=170.0n
MP11_4 net051 A1 VDD VDD pch_mac l=30n w=170.0n
MP31_1 ZN B net037 VDD pch_mac l=30n w=170.0n
MP31_2 ZN B net037 VDD pch_mac l=30n w=170.0n
MP21_1 net037 C net051 VDD pch_mac l=30n w=170.0n
MP21_2 net037 C net051 VDD pch_mac l=30n w=170.0n
MP21_3 net037 C net051 VDD pch_mac l=30n w=170.0n
MP12_1 net051 A2 VDD VDD pch_mac l=30n w=170.0n
MP12_2 net051 A2 VDD VDD pch_mac l=30n w=170.0n
MP12_3 net051 A2 VDD VDD pch_mac l=30n w=170.0n
MP12_4 net051 A2 VDD VDD pch_mac l=30n w=170.0n
MN12_1 ZN B VSS VSS nch_mac l=30n w=140.0n
MN12_2 ZN B VSS VSS nch_mac l=30n w=140.0n
MN11_1 ZN A1 net022 VSS nch_mac l=30n w=140.0n
MN11_2 ZN A1 net022 VSS nch_mac l=30n w=140.0n
MN21_1 net022 A2 VSS VSS nch_mac l=30n w=140.0n
MN21_2 net022 A2 VSS VSS nch_mac l=30n w=140.0n
MN21_3 net022 A2 VSS VSS nch_mac l=30n w=140.0n
MN21_4 net022 A2 VSS VSS nch_mac l=30n w=140.0n
MN13_1 ZN C VSS VSS nch_mac l=30n w=140.0n
MN13_2 ZN C VSS VSS nch_mac l=30n w=140.0n
.ENDS